US04166853
A solution of 1.0 mmol of 4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoic acid hydrochloride in dry dimethylformamide is stirred in a nitrogen atmosphere at 20°-25° C.; 1.1 mmol of carbonyl diimidazole is added and the mixture stirred further for 1 hour. 4-Hydroxy-4-[(3-trifluoromethyl)phenyl]piperidine (1.1 mmol) is then added and the reaction mixture is stirred for 20 hours, then poured into aqueous sodium bicarbonate and is extracted with methylene chloride. The organic extract is dried over anhydrous sodium sulfate and concentrated in vacuo. The concentrate is crystallized and recrystallized from methylene chloride to give 86% yield of 4-[3-(trifluoromethyl)phenyl]-4-hydroxy-1-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperidine of m.p. 278°-279° C.

reactant | 4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoic acid hydrochloride | 1.0 mmol | Cl.FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)O)C=C1)(F)F
reactant | carbonyl diimidazole | 1.1 mmol | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-Hydroxy-4-[(3-trifluoromethyl)phenyl]piperidine | 1.1 mmol | C1CNCCC1(C2=CC(=CC=C2)C(F)(F)F)O | C12H14F3NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[3-(trifluoromethyl)phenyl]-4-hydroxy-1-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperidine | 86% yield | FC(C=1C=C(C=CC1)C1(CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)O)(F)F | C29H23F6N3O2
